US06686348B2
Step A: (5R)-6-{[(4-Pyridyl)-1-benzofuran-5-yl]sulphonyl}-4,5,6,7-tetra-hydrofuro[2,3-c]pyridine-5-carboxylic acid tert-butyl Ester
30 mmol of (5R)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-5-carboxylic acid tert-butyl ester hydrochloride are placed in 150 ml of pyridine. 30 mmol of 2-(4-pyridyl)-1-benzofuran-5-sulphonyl chloride described in Preparation C are then added at room temperature and the whole is heated at 60° C. overnight.

reactant | (5R)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-5-carboxylic acid tert-butyl ester hydrochloride | 30 mmol | Cl.C(C)(C)(C)OC(=O)[C@H]1CC2=C(CN1)OC=C2
reactant | 2-(4-pyridyl)-1-benzofuran-5-sulphonyl chloride | 30 mmol | N1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)S(=O)(=O)Cl | C13H8ClNO3S
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | (5R)-6-{[(4-Pyridyl)-1-benzofuran-5-yl]sulphonyl}-4,5,6,7-tetra-hydrofuro[2,3-c]pyridine-5-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)[C@H]1CC2=C(CN1S(=O)(=O)C=1C=CC3=C(C=C(O3)C3=CC=NC=C3)C1)OC=C2 | C25H24N2O6S
